US06399614B1
1-[N-(2-trifluoromethoxyphenyl)-2-aminoethyl]-4-(2-trifluoromethoxyphenyl)piperazine
The title compound was obtained following the procedure described for example 54, but using 1-(2-trifluoromethoxyphenyl)piperazine in place of 1-(4-nitro-2-methoxyphenyl)piperazine. The reaction mixture was heated at 120° C. for 8 h. The residue obtained by usual work-up and extraction with Et2O was purified by flash chromatography (petroleum ether-EtOAc gradient from 90:10 to 80:20) to afford the title compound. Yield: 41%.

reactant | 1-(2-trifluoromethoxyphenyl)piperazine | FC(OC1=C(C=CC=C1)N1CCNCC1)(F)F | C11H13F3N2O
solvent | Et2O | CCOCC | C4H10O
product | 1-[N-(2-trifluoromethoxyphenyl)-2-aminoethyl]-4-(2-trifluoromethoxyphenyl)piperazine | Yield: 41% | FC(OC1=C(C=CC=C1)NCCN1CCN(CC1)C1=C(C=CC=C1)OC(F)(F)F)(F)F | C20H21F6N3O2
